US07994203B2
3-(2,4-Dichloro-phenyl)-6-ethyl-2-methyl-pyrazolo[5,1-b]oxazole-7-carboxylic acid cyclopropylmethyl-propyl-amide
To a stirred solution of 3-(2,4-dichloro-phenyl)-6-ethyl-2methyl-pyrazolo[5,1-b]oxazole-7-carboxylic acid (Intermediate IA) (37 mg, 0.11 mmol, 1 eq.) in DMF (0.8 ml) is successively added cyclopropylmethyl-propylamine (0.017 ml, 0.12 mmol, 1.1 eq.), DIPEA (0.038 ml, 0.22 mmol, 2 eq.) and HATU (46 mg, 0.12 mmol, 1.1 eq.) at RT. The reaction mixture is heated at 50° C. for 2 h then poured into EtOAc and washed with K2CO3 2M in water (2×). The organic layer is dried over Na2SO4, filtered and concentrated to dryness and the resulting crude residue is purified by column chromatography (SiO2; gradient elution iso-hexane/EtOAc 6:1 to 1:1) to yield the title compound as a yellow oil. MS: m/z 434.3 [M+H]+; 1H NMR (400 MHz, DMSO-d6) δ 7.90 (1H, d), 7.73 (1H, d), 7.65 (1H, dd), 3.46 (2H, t), 3.30 (2H, s), 2.70 (2H, q), 2.34 (3H, s), 1.60 (2H, m), 1.11 (3H, t), 1.02 (1H, m), 0.63 (3H, m), 0.48 (2H, m), 0.20 (2H, m).

reactant | 3-(2,4-dichloro-phenyl)-6-ethyl-2methyl-pyrazolo[5,1-b]oxazole-7-carboxylic acid | 0.11 mmol, 37 mg, 1 eq. | ClC1=C(C=CC(=C1)Cl)C=1N2C(OC1C)=C(C(=N2)CC)C(=O)O | C15H12Cl2N2O3
reactant | cyclopropylmethyl-propylamine | 0.12 mmol, 0.017 ml, 1.1 eq. | C1(CC1)CNCCC | C7H15N
reactant | DIPEA | 0.22 mmol, 0.038 ml, 2 eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.12 mmol, 46 mg, 1.1 eq. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 0.8 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(2,4-Dichloro-phenyl)-6-ethyl-2-methyl-pyrazolo[5,1-b]oxazole-7-carboxylic acid cyclopropylmethyl-propyl-amide | C1(CC1)CN(C(=O)C=1C(=NN2C1OC(=C2C2=C(C=C(C=C2)Cl)Cl)C)CC)CCC | C22H25Cl2N3O2
